US09034866B2
9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-3-[(2-methylpyrazol-3-yl)methyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide was prepared similarly according to General Procedure E with slight modification. 10-bromo-9-fluoro-3-[(2-methylpyrazol-3-yl)methyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide was reacted with 3-methyl-1-butyne-3-ol in a solution of DMF (1.3 mL/mmol) and diisopropylamine (2.6 mL/mmol) to afford 2.5 mg (23% yield). M+1=424.2.

reactant | 10-bromo-9-fluoro-3-[(2-methylpyrazol-3-yl)methyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)CC=3N(N=CC3)C)C1)F | C17H15BrFN5O2
reactant | 3-methyl-1-butyne-3-ol | CC(C#C)(C)O | C5H8O
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
product | 9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-3-[(2-methylpyrazol-3-yl)methyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 23% yield | FC1=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)CC=3N(N=CC3)C)C=C1C#CC(C)(C)O | C22H22FN5O3
